US06288051B1
A solution of 48 g of 17β-acetoxy-7α-(5-tert-butyl-dimethylsilyloxypentyl)-estr-4-en-3-one in 350 ml of methanol is allowed to stand with 35 ml of 8 vol % sulfuric acid for 30 minutes at room temperature. The solution is diluted with diethyl ether, washed neutral with water, and dried. After the concentration by evaporation, 37.7 g of 17β-acetoxy-7α-(5-hydroxypentyl)-estr-4-en-3-one is obtained as an oil.

reactant | 17β-acetoxy-7α-(5-tert-butyl-dimethylsilyloxypentyl)-estr-4-en-3-one | 48 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)CCCCCO[Si](C)(C)C(C)(C)C | C31H52O4Si
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 350 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 17β-acetoxy-7α-(5-hydroxypentyl)-estr-4-en-3-one | 37.7 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)CCCCCO | C25H38O4
